US04329347
6-[4-(2-Pyrimidyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[4-(2-pyrimidyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(2-pyrimidyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N1=C(N=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C17H19N3O2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Pyrimidyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | N1=C(N=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C17H19N3O3S
